US07423052B2
Description 30 (RS)-2-{2-[N′-(1-Furan-2-yl-methanoyl)-hydrazino]-2-oxo-ethyl}-piperidine-1-carboxylic acid tert butyl ester
2-Carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (2.0 g) was added to [O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate] (3.13 g) in dimethylformamide (10 ml) containing diisopropylethylamine (3.2 g) and the mixture stirred for 15 min. 2-Furoic acid hydrazide (1.04 g) was then added and stirring continued for 16 h. The reaction mixture was diluted with water and extracted with diethyl ether. The combined ether extracts were washed with water, dried and solvent removed at reduced pressure the residue was column chromatographed (silica gel, 20-50% ethyl acetate/hexane) to give the title compound (2.05 g).

reactant | 2-Carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 3.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Furoic acid hydrazide | 1.04 g | O1C(=CC=C1)C(=O)NN | C5H6N2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (RS)-2-{2-[N′-(1-Furan-2-yl-methanoyl)-hydrazino]-2-oxo-ethyl}-piperidine-1-carboxylic acid tert butyl ester | 2.05 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)NNC(=O)C=1OC=CC1 | C17H25N3O5
